US07919528B2
2-Hydrazino-5-ethylpyrimidine
To a solution of 2-chloro-5-ethylpyrimidine (0.31 g, 2.2 mmol) in MeOH (5 mL) was added hydrazine monohydrate (1.0 mL, 20.6 mmol). After stirring for 16 h at 50° C., the solution was cooled to room temperature and purified by reverse phase HPLC to give 0.24 g (80%) of the title compound as a white solid. MH+139.

reactant | 2-chloro-5-ethylpyrimidine | 2.2 mmol, 0.31 g | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | hydrazine monohydrate | 20.6 mmol, 1.0 mL | O.NN
solvent | MeOH | 5 mL | CO | CH4O
product | 2-Hydrazino-5-ethylpyrimidine | 0.24 g, 80% | N(N)C1=NC=C(C=N1)CC | C6H10N4
